US06762180B1
(103) 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-acetyl-amino)-3-bromo-anilino)-1-phenyl-methylene]6-methoxycarbonyl-2-indolinone
Prepared from 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone and 4-(N-(2-dimethylamino-ethyl)-N-acetyl-amino)-3-bromo-aniline Rf value: 0.6 (silica gel, methylene chloride/methanol=5:1) C29H29BrN4O4

reactant | 1-acetyl-3-(1-ethoxy-1-phenylmethylene)-6-methoxycarbonyl-2-indolinone | C(C)(=O)N1C(C(C2=CC=C(C=C12)C(=O)OC)=C(C1=CC=CC=C1)OCC)=O | C21H19NO5
reactant | 4-(N-(2-dimethylamino-ethyl)-N-acetyl-amino)-3-bromo-aniline | CN(CCN(C(C)=O)C1=C(C=C(N)C=C1)Br)C | C12H18BrN3O
product | 3-Z-[1-(4-(N-(2-dimethylamino-ethyl)-N-acetyl-amino)-3-bromo-anilino)-1-phenyl-methylene]6-methoxycarbonyl-2-indolinone | CN(CCN(C(C)=O)C1=C(C=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)OC)=O)C=C1)Br)C | C29H29BrN4O4
